US07754745B2
Step 2: Methyl 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxylate
To a solution of methyl 2-(3-hydroxypyrrolidin-1-yl)-1,3-thiazole-5-carboxylate (1 g, 4.4 mmol), 2-(trifluoromethyl)phenol (0.8 g, 4.9 mmol) and triphenylphosphine (1.5 g, 5.7 mmol) in THF at rt was added DEAD (900 μL, 5.7 mmol) over 5-10 min. The mixture was stirred at rt for 2 days. Solvent was evaporated. The residue was diluted with EtOAc and washed successively with 1 N aqueous NaOH and brine. The EtOAc layer was separated, dried (Na2SO4) and concentrated. CombiFlash chromatography (40 g, 30-70% EtOAc in hexanes in 20 min, 35 mL/min, 18 mL/fraction) gave a semi-solid which was triturated with hexanes-diethyl ether to give a white solid which was filtered off. Crystals appeared in the mother liquor after standing. These crystals were collected to give the title compound, contaminated with about 5-10% impurity. 1H NMR (400 MHz, acetone-d6): δ 7.84 (s, 1 H), 7.67 (m, 2 H), 7.41 (d, 1 H), 7.17 (t, 1H), 5.51 (s, 1H), 3.95 (m, 1H), 3.80-3.65 (m, 6H), 2.60-2.46 (m, 2H).

reactant | methyl 2-(3-hydroxypyrrolidin-1-yl)-1,3-thiazole-5-carboxylate | 4.4 mmol, 1 g | OC1CN(CC1)C=1SC(=CN1)C(=O)OC | C9H12N2O3S
reactant | 2-(trifluoromethyl)phenol | 4.9 mmol, 0.8 g | FC(C1=C(C=CC=C1)O)(F)F | C7H5F3O
reactant | triphenylphosphine | 5.7 mmol, 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 5.7 mmol, 900 μL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxylate | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C(=O)OC)C=CC=C1)(F)F | C16H15F3N2O3S
